US05461143
Ailyl 2-acetamido-3,4-di-O-acetyl-6-azido-2,6-dideoxy-α-D-mannopyranoside, prepared as described above, (0.5 mg) was dissolved in 10 mL methanol containing 0.2M MeONa. After five minutes, Dowex 50 cation exchange resin was added to the mixture to neutralize. The resin was filtered and the filtrate was concentrated to yield allyl 2-acetamido-6-azido-2,6-dideoxy-α-D-mannopyranoside (99 percent).

reactant | Ailyl 2-acetamido-3,4-di-O-acetyl-6-azido-2,6-dideoxy-α-D-mannopyranoside | C(C)(=O)N[C@@H]1[C@@H](OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)CN=[N+]=[N-] | C15H22N4O7
solvent | methanol | 0.2M, 10 mL | CO | CH4O
product | allyl 2-acetamido-6-azido-2,6-dideoxy-α-D-mannopyranoside | 99 percent | C(C)(=O)N[C@@H]1[C@@H](OCC=C)O[C@@H]([C@H]([C@@H]1O)O)CN=[N+]=[N-] | C11H18N4O5
